US06503907B2
To 2.25 g (6.25 mmol) Trifluoro-methanesulfonic acid 1-(4-fluoro-phenyl)-1H-indol-5-yl ester in 12.5 ml piperidine were added 360 mg (0.31 mmol) tetrakis(triphenylphosphine)-palladium followed by 60.0 mg (0.31 mmol) copper iodide. The solution was evaporated and flushed with argon prior to the addition of 450 μl (4.95 mmol) 4-pentynol at 80° C. over a period of 45 min. Further 0.45 ml (4.95 mmol) 4-pentynol were added and the solution was stirred for 2 h. The mixture was added to ice water, acidified with 2M HCl and extracted with ether. The combined organic phases were washed with water and dried over Na2SO4. Purification by column chromatography with CH2Cl2/MeOH 19:1 yielded 1.4 g (76%) 5-[1-(4-Fluoro-phenyl)-1H-indol-5-yl]-pent-4-yn-1-ol as light yellow waxy solid, MS: 293 (M).

reactant | Trifluoro-methanesulfonic acid 1-(4-fluoro-phenyl)-1H-indol-5-yl ester | 6.25 mmol, 2.25 g | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C15H9F4NO3S
reactant | 4-pentynol | 4.95 mmol, 450 μl | C(CCC#C)O | C5H8O
reactant | 4-pentynol | 4.95 mmol, 0.45 ml | C(CCC#C)O | C5H8O
reactant | HCl | 2M | Cl | ClH
solvent | piperidine | 12.5 ml | N1CCCCC1 | C5H11N
catalyst | tetrakis(triphenylphosphine)-palladium | 0.31 mmol, 360 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper iodide | 0.31 mmol, 60.0 mg | [Cu](I)I
product | 5-[1-(4-Fluoro-phenyl)-1H-indol-5-yl]-pent-4-yn-1-ol | 1.4 g, 76% | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C#CCCCO | C19H16FNO
